US05731315
A mixture of [5-(2-methylsulfinyl-pyrimidin-4-yl)-thiophene-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxo-pyrrolidin3-(S)-yl]-amide and [5-(2-methylsulfonyl-pyrimidin-4-yl)-thiophene-2sulfonic acid [1-(3-cyanobenzyl)-2-oxo-pyrrolidin-3-(S)-yl]-amide (0.20 g, 0.39 mmol) is dissolved in 10 mL of EtOH and NH3 gas is bubbled through the solution for 5 min. The resulting mixture is heated at 90° C. for 3 h in a stainless steel Parr high pressure reaction vessel. After this time, the solution is allowed to cool to room temperature and is concentrated in vacuo to give [5-(2-amino-pyrimidin-4-yl)-thiophene-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxo-pyrrolidin-3-(S)-yl]-amide (0.20 g) as a crude product. FAB MS, [M+H]+ =455. The crude [5-(2-amino-pyrimidin-4-yl)-thiophene-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxo-pyrrolidin-3-(S)-yl]-amide is converted to the title compound as described in EXAMPLE 1, Part F. The crude product is purified by RP-HPLC eluting in a gradient of 10% CH3CN/H2O (0.1% TFA) to 60% CH3CN/H2O (0.1% TFA) and the appropriate product fractions are lyophilized to provide the title compound as a white solid.

reactant | 5-(2-methylsulfinyl-pyrimidin-4-yl)-thiophene-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxo-pyrrolidin3-(S)-yl]-amide | C(#N)C=1C=C(CN2C([C@H](CC2)NS(=O)(=O)C=2SC(=CC2)C2=NC(=NC=C2)S(=O)C)=O)C=CC1 | C21H19N5O4S3
reactant | 5-(2-methylsulfonyl-pyrimidin-4-yl)-thiophene-2sulfonic acid [1-(3-cyanobenzyl)-2-oxo-pyrrolidin-3-(S)-yl]-amide | 0.39 mmol, 0.20 g | C(#N)C=1C=C(CN2C([C@H](CC2)NS(=O)(=O)C=2SC(=CC2)C2=NC(=NC=C2)S(=O)(=O)C)=O)C=CC1 | C21H19N5O5S3
solvent | EtOH | 10 mL | CCO | C2H6O
product | 5-(2-amino-pyrimidin-4-yl)-thiophene-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxo-pyrrolidin-3-(S)-yl]-amide | 0.20 g | C(#N)C=1C=C(CN2C([C@H](CC2)NS(=O)(=O)C=2SC(=CC2)C2=NC(=NC=C2)N)=O)C=CC1 | C20H18N6O3S2
